Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
relapse of alcohol/distended abdomen + jaundice, clotted feeding 
tube
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of 
depression and alcoholic  cirrhosis (c/b small varices) and 
relapse of alcohol use, who is presenting with alcohol relapse, 
abdominal distension, and a clogged feeding tube. 

The patient was recently admitted to ___ ___ for 
decompensated alcoholic cirrhosis and HCAP; she completed an 8 
day course of vancomycin/cefepime. She was discharged to home 
with a dobhoff and ___ services, and was also started on 
prednisone 40 mg for alcoholic hepatitis. Discharge weight was 
79.3kg.

On ___, patient's hepatologist was contacted because patient 
relapsed on alcohol for 5 days and was more jaundiced and with 
increased abdominal girth as per the ___. In addition, her NG 
tube had clogged. She was sent to the ER by her hepatologist for 
labs, ascites management (and diagnostic/therapeutic 
paracentesis), and for social work consultation given her 
depressive symptoms. She has a court date scheduled for ___ for a DUI, and can potentially can go to a rehab 
facility after this. 

Upon arrival to the floor, the patient said she currently feels 
well, and her only complaint is that her dobhoff is clogged. She 
shares that her last drink was four days ago, and she had been 
drinking for about 5 days, a bottle of hard liquor per day. She 
attributes her recent relapse to the death of her uncle. She 
also shares that on the day of her last drink, she had a 
temperature was 100.7. She has had no symptoms of withdrawal, 
but has had withdrawal seizures in the past. She denies any 
subjective confusion, trouble breathing, cough, increasing 
abdominal distension, urinary frequency or dysuria. 

 
Past Medical History:
Alcohol abuse complicated by presumed cirrhosis, neuropathy, and 
 
withdrawal seizures  
Alcoholic hepatitis  
Anemia  
Hypothyroidism  
Depression  
Hypertension  
 
 
Social History:
___
Family History:
None
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: T98.9 BP131/84 HR103 O2 99 RA
General: alert; lying in bed; appears comfortable, NAD. 
HEENT: mildly icteric sclerae; moist mucosa; dobhoff in place, 
rigid to touch; dandruff.
CV: tachycardic, normal S1, S2, no appreciable murmurs.
Lungs:  CTA2.
Abdomen: mildly distended, soft, nontender, hepatomegaly. 
Ext: nonedematous; bilateral pedal pulses
Neuro: oriented to self, thinks at ___, knows 
year and month, can count days of week backwards, mild 
asterixis.
Skin: no jaundice, no rashes.
 

DISCHARGE PHYSICAL EXAM
VS: Tm98.9 BP130s/70s-80s HR91-108 RR18 O2 96 RA
General: alert; sitting up in bed eating breakfast; appears 
comfortable, NAD. 
HEENT: mildly icteric sclerae; moist mucosa; dobhoff in place.
CV: RRR, normal S1, S2, no appreciable murmurs.
Lungs:  CTA2.
Abdomen: mildly distended, soft, nontender, hepatomegaly. 
Ext: nonedematous; bilateral pedal pulses 1+
Neuro: AOx3, mild asterixis vs tremor 
Skin: no jaundice, no rashes.
 
 
Pertinent Results:
ADMISSION LABS
___ 12:50PM BLOOD WBC-3.6*# RBC-2.13* Hgb-8.4* Hct-24.8* 
MCV-116* MCH-39.4* MCHC-33.9 RDW-13.9 RDWSD-58.1* Plt Ct-41*
___ 12:50PM BLOOD Neuts-70 Bands-0 Lymphs-13* Monos-14* 
Eos-3 Baso-0 ___ Myelos-0 AbsNeut-2.52 AbsLymp-0.47* 
AbsMono-0.50 AbsEos-0.11 AbsBaso-0.00*
___ 12:50PM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-3+ Microcy-NORMAL Polychr-NORMAL Ovalocy-1+ Tear Dr-1+ 
Acantho-OCCASIONAL
___ 12:50PM BLOOD ___ PTT-38.8* ___
___ 12:50PM BLOOD Glucose-112* UreaN-12 Creat-1.2* Na-133 
K-4.7 Cl-95* HCO3-25 AnGap-18
___ 12:50PM BLOOD ALT-31 AST-128* AlkPhos-103 TotBili-5.5*
___ 12:50PM BLOOD Albumin-3.2* Calcium-8.1* Phos-3.8 
Mg-1.4*
___ 12:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:00PM BLOOD Lactate-2.0

DISCHARGE LABS
___ 05:27AM BLOOD WBC-3.7* RBC-2.11* Hgb-8.2* Hct-24.8* 
MCV-118* MCH-38.9* MCHC-33.1 RDW-13.5 RDWSD-57.6* Plt Ct-41*
___ 05:27AM BLOOD ___ PTT-40.9* ___
___ 05:27AM BLOOD Glucose-111* UreaN-11 Creat-0.9 Na-133 
K-3.5 Cl-95* HCO3-26 AnGap-16
___ 05:27AM BLOOD Albumin-3.5 Calcium-8.8 Phos-3.2 Mg-1.7
___ 06:15AM URINE Color-Yellow Appear-Hazy Sp ___
___ 06:15AM URINE Blood-SM  Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln->12 pH-7.0 Leuks-NEG
___ 06:15AM URINE RBC-9* WBC-1 Bacteri-MOD Yeast-NONE Epi-1

DIAGNOSTICS AND IMAGING
___ RUQ US/Doppler:
IMPRESSION:  
1. No evidence of portal vein thrombosis.  Patent umbilical vein 
with reversed right portal venous flow. 
2. Spleen measuring up to 16.7 cm, increased since prior. 

___ CXR: 
IMPRESSION:    
Enteric tube in place.  No focal consolidation. 
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of 
depression/anxiety and alcoholic cirrhosis (c/b small varices) 
and relapse of alcohol use, who is presenting with alcohol 
relapse and a clogged feeding tube.

She shares that she recently started drinking alcohol again 
after the death of her uncle. She lives within walking distance 
of two liquor stores and mentions that this has made refraining 
from alcohol particularly difficult, but that she is trying. She 
says she partakes in AA, has a sponsor, and knows what she has 
to do to quit. She has a court date ___ for a DUI, after 
which she claims she will be eligible for a court mandated rehab 
program. She was placed on CIWA during hospitalization, and did 
not score.

Her dobhoff was replaced, and tube feeds were restarted. 

Of note, patient had reported that 1 week ago she had a fever to 
100.7; infectious workup was done and negative. 

She had a RUQ ultrasound that showed worsening splenomegaly, and 
wbc and platelets below her baseline that were consistent with 
this.

TRANSITIONAL ISSUES: 
#F/u alcohol cessation and court mandated rehab program
#F/u treatment of depression and anxiety as prevention of 
alcohol relapse
#Full code
#Contact/HCP ___, ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Jevity 1.5 Cal (lactose-reduced food with fibr) 0.06 gram-1.5 
kcal/mL NJ INFUSION 
2. Gabapentin 600 mg PO TID 
3. LeVETiracetam 500 mg PO BID 
4. Levothyroxine Sodium 25 mcg PO QAM 
5. Magnesium Oxide 400 mg PO BID 
6. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 
7. Thiamine 100 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
10. FoLIC Acid 1 mg PO DAILY 
11. Nadolol 20 mg PO DAILY 
12. Amitriptyline 10 mg PO QHS 
13. Furosemide 20 mg PO DAILY 

 
Discharge Medications:
1. Amitriptyline 10 mg PO QHS 
2. FoLIC Acid 1 mg PO DAILY 
3. Furosemide 20 mg PO DAILY 
4. Gabapentin 600 mg PO TID 
5. LeVETiracetam 500 mg PO BID 
6. Levothyroxine Sodium 25 mcg PO QAM 
7. Magnesium Oxide 400 mg PO BID 
8. Multivitamins 1 TAB PO DAILY 
9. Nadolol 20 mg PO DAILY 
10. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
11. Thiamine 100 mg PO DAILY 
12. Lactulose 30 mL PO TID 
Take so that you have ___ bowel movements per day 
RX *lactulose 20 gram/30 mL 30 ml by mouth three times a day 
Refills:*0
13. Jevity 1.5 Cal (lactose-reduced food with fibr) 0.06 
gram-1.5 kcal/mL NJ INFUSION 
14. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 
15. tube feeds
Tubefeeding:  Jevity 1.5 Full strength 
Goal rate:60 ml/hr
Flush w/  100 ml  water q3h

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Severe malnutrition
Alcohol abuse

SECONDARY DIAGNOSES
Alcohol cirrhosis
Chronic leg pain
Hypothyroidism
Anxiety disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your 
hospitalization. You were admitted because your feeding tube was 
clogged, and because your liver doctor was very concerned about 
you drinking alcohol again. Your feeding tube was replaced, and 
tube feeds were restarted. 

We strongly encourage you to not drink alcohol again, as this 
will quickly cause your liver disease to worsen, and could lead 
to death. If you feel like you need extra support, please 
contact your primary care physician. You should strongly 
consider joining ___ rehab to help you treat alcoholism.

We wish you the best of luck in your health.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___